US06777417B2
3-(3-Oxo-3-piperazin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one (3.8 g, 75% pure) was dissolved in 1,4-dioxane (4×50 ml) and was added to a mixture of lithium aluminum hydride (3.9 g, 7 equiv.) in 50 ml of tetrahydrofuran at 0° C. The reaction mixture was refluxed at 70° C. overnight. Thin layer chromatography (dichloromethane: methanol: ammonia 5:1:0.1) showed one major spot. The reaction mixture was quenched by DI water (6 ml), 10% sodium hydroxide (14 ml) and DI water (15 ml). The formed solid was filtered out and washed twice with 1,4-dioxane. The filtrate was concentrated and dried under high vacuum to give 3-(3-piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole (2.3 g, 79% pure).

reactant | 3-(3-Oxo-3-piperazin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one | 3.8 g | O=C(CCC1=CNC=2CCCC(C12)=O)N1CCNCC1 | C15H21N3O2
reactant | lithium aluminum hydride | 3.9 g, 7 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3-piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole | 2.3 g, 79% | N1(CCNCC1)CCCC1=CNC=2CCCCC12 | C15H25N3
